US04095024
110 parts of monomethyl maleate are added with stirring to 800 parts of water containing 152 parts of p-hydrazinobenzene sulphonate and 88 parts of sodium carbonate. The mixture is warmed until all reactants are in solution and the pH is adjusted by addition of sodium carbonate to 7.0. The resulting solution is heated at 100° C for 9 hours during which period the pH is adjusted to 7.0 after 6 hours. On completion of heating, the pH is adjusted to 3.8 by addition of hydrochloric acid and the 3-carboxy-1-(4'-sulphophenyl)-5-pyrazolidone thus formed is filtered off and dried between 50°-100° C. The actual weight yield is 266 parts of strength 77% (determined by N.M.R.) which represents a yield of 85% theory.

reactant | monomethyl maleate | C(\C=C/C(=O)[O-])(=O)OC
reactant | p-hydrazinobenzene sulphonate | N(N)C1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-carboxy-1-(4'-sulphophenyl)-5-pyrazolidone | yield of 85% | C(=O)(O)C1NN(C(C1)=O)C1=CC=C(C=C1)S(=O)(=O)O | C10H10N2O6S
